2114-01-02 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient has thick, malodorous secretions, with T 100.8
   and associated tachycardia.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2114-1-1**] 03:20 PM
 MULTI LUMEN - START [**2114-1-1**] 03:30 PM
 ARTERIAL LINE - START [**2114-1-1**] 11:08 PM
 EKG - At [**2114-1-2**] 06:18 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2114-1-1**] 08:06 PM
   Cefipime - [**2114-1-1**] 08:45 PM
   Metronidazole - [**2114-1-2**] 02:38 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2114-1-2**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-2**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 108 (85 - 114) bpm
   BP: 113/68(83) {111/66(80) - 124/78(91)} mmHg
   RR: 16 (16 - 19) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.5 kg (admission): 87.5 kg
    Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  2,394 mL
                                                                    685 mL
   PO:
   TF:
   IVF:
                                                                  2,394 mL
                                                                    685 mL
   Blood products:
   Total out:
                                                                    235 mL
                                                                    195 mL
   Urine:
                                                                    235 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,159 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.40/47/168/25/3
   Ve: 6.7 L/min
   PaO2 / FiO2: 336
   Physical Examination
   GENERAL: Overweight african american gentleman appears comfortable,
   NAD, opens eyes to voice
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MM slightly dry. Lower lip fasciculations. OP
   clear. Neck Supple, No LAD, No thyromegaly. Previous trach scar
   CARDIAC: Distant. Regular rhythm, normal rate. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**]. JVP=7-8cm although difficult to appreciate
   LUNGS: Decreased BS throughout with scattered exp wheezes, coarse
   rhonchorous BS and bibasilar rales.
   ABDOMEN: NABS. Soft, NT, ND. No HSM. PEG tube in place with dsg C/D/I
   EXTREMITIES: R femoral CVL in place. Trace dorsalis pedis/posterior
   tibial pulses. Extremities cool to touch. Atrophic, hairless skin with
   contractures bilateral [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **]: No rashes, ecchymoses. Small sacral skin tear.
   NEURO: CN 2-12 grossly intact. +lower lip fasciculations. Unable to
   assess strength. + clonus bilateral LEs.
   Labs / Radiology
   191 K/uL
   12.4 g/dL
   117 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   18 mg/dL
   110 mEq/L
   143 mEq/L
   38.8 %
   7.6 K/uL
        [image002.jpg]
                            [**2114-1-1**]  05:58 PM
                            [**2114-1-1**]  07:03 PM
                            [**2114-1-2**]  12:43 AM
                            [**2114-1-2**]  02:54 AM
                            [**2114-1-2**]  03:12 AM
   WBC
   9.8
   7.6
   Hct
   38.0
   38.8
   Plt
   211
   191
   Cr
   0.6
   0.4
   TropT
   0.05
   0.04
   TCO2
   31
   30
   30
   Glucose
   112
   117
   Other labs: PT / PTT / INR:19.2/26.3/1.8, CK / CKMB /
   Troponin-T:132/2/0.04, Differential-Neuts:72.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:9.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy, and recurrent
   aspiration pneumonia presenting with progressively worsening dyspnea
   over 2.5 weeks and hypoxic respiratory failure likely secondary to HCAP
   vs aspiration PNA/pneumonitis
   .
   #.  Hypoxic Respiratory Failure: Differential diagnosis includes HCAP,
   aspiration pneumonia or pneumonitis, and pulmonary edema. Patient has
   history of recurrent aspiration pneumonia and has failed outpatient
   regimen of levofloxacin now presenting with worsening hypoxemia and
   bibasilar infiltrates concerning for aspiration vs multifocal PNA.
   Subacute nature of symptoms with normal WBC and lack of bandemia make
   acute infection and sepsis less likely but hypotension concerning for
   evolving SIRS/sepsis in setting of abnormal CXR. CXR does not appear to
   be consistent with pulmonary edema and clinically not volume
   overloaded. Will empirically treat for PNA with HCAP/aspiration
   coverage given lives in nursing facility and has failed outpatient
   regimen.
   - Empiric antibiotics Vanco/cefepime/flagyl/levoflox for now while cx
   data pending; consider d/c in 48-72 hours
   - wean  FiO2 as tolerated
   - Trend fever and WBC
   - follow up blood cx, sputum cx
   - albuterol and ipratropium MDI given wheezing, smoking history, and
   has been on them at [**Hospital3 240**]
   .
   #. Hypotension: Given time course of hypotension, likely partly related
   to sedation and infection since was not initially hypotensive in ED but
   now continues to have pressor requirement although has improved with
   IVF since arrival here. HR>90, RR>20 with UOP<0.5cc/kg/hr and lactate>2
   consistent with severe sepsis picture if infiltrates considered
   documented infection. Other possible etiologies of hypotension include
   cardiogenic shock given cool extremities and known decreased EF
   although CXR and exam not consistent with worsening volume overload.
   Lactate improved from 3.1 to 1.2
   - continue IVFs to maintain MAP>65 and UOP>0.5cc/kg/hr
   - TTE in am
   - hold home lasix
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE [**10-13**] with EF 10% although not clinically volume
   overloaded and no evidence of worsening pulmonary edema on CXR.
   Unlikely to be in cardiogenic shock since was able to wean off pressors
   overnight.
   - redose coumadinin am for goal INR [**2-7**] for anticoagulation in setting
   of low EF
   - hold lasix for now
   - monitor fluid status closely
   .
   #. CAD: No evidence of acute ischemia on ECG, only change is worse R
   wave progression but may be [**2-6**] lead placement. Trop mildly elevated
   0.05, 0.04, possibly element of demand ischemia with tachycardia and
   fever.
   - will start ASA 325, continue home statin
   - ROMI, monitor on telemetry
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue home cymbalta
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin (redose in am based on INR while on abx since
   expect to rise)
   - ASA 325
   ICU Care
   Nutrition: restart TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-1-1**] 03:30 PM
   Arterial Line - [**2114-1-1**] 11:08 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: no ppi given aspiration risk
   VAP:
   Comments:
   Communication:  Comments: patient and wife
   [**Name (NI) 36**] status: was DNR/DNI previously but consented to intubation
   Disposition:ICU

2114-01-03 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2114-1-2**] 09:30 AM
 EKG - At [**2114-1-2**] 10:00 AM
 PICC LINE - START [**2114-1-2**] 10:00 PM
   --Patient persistently tachycardic throughout the day; improved with
   fluids (~1.5 Liters total given) and sedation with fent. and versed.
   However, patient continues to be tachy and we're not sure why.  Is this
   volume depletion or fluid overload?
   --Letter board brought in by patient's family
   --PICC placed
   --Urine output not great.
   --Back on asist control ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2114-1-2**] 08:13 PM
   Levofloxacin - [**2114-1-2**] 08:36 PM
   Vancomycin - [**2114-1-2**] 09:06 PM
   Cefipime - [**2114-1-3**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2114-1-2**] 04:31 PM
   Fentanyl - [**2114-1-2**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-3**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
F) at 4pm yest
   Tcurrent: 37.3
C (99.1
   HR: 107 (92 - 125) bpm
   BP: 98/55(69) {98/55(69) - 156/92(112)} mmHg
   RR: 16 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 87.5 kg
             Total In:
                                                                  3,079 mL
                                                                  1,322 mL
   PO:
             TF:
                                                                    100 mL
                                                                    147 mL
   IVF:
                                                                  2,909 mL
                                                                  1,175 mL
   Blood products:
   Total out:
                                                                    615 mL
                                                                    150 mL
   Urine:
                                                                    615 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,464 mL
                                                                  1,172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow volume control
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 474 (362 - 570) mL
   PS : ---
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.38/46/126/28/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 315
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   171 K/uL
   11.5 g/dL
   109 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   111 mEq/L
   145 mEq/L
   36.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2114-1-1**]  05:58 PM
                            [**2114-1-1**]  07:03 PM
                            [**2114-1-2**]  12:43 AM
                            [**2114-1-2**]  02:54 AM
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
   WBC
   9.8
   7.6
   7.4
   Hct
   38.0
   38.8
   36.5
   Plt
   [**Telephone/Fax (3) 12424**]
   Cr
   0.6
   0.4
   0.4
   TropT
   0.05
   0.04
   TCO2
   31
   30
   30
   28
   Glucose
   112
   117
   109
   Other labs: PT / PTT / INR:20.5/36.8/1.9, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:1.7 mg/dL
   Imaging: TTE [**1-2**]: The left atrium is elongated. Left ventricular wall
   thicknesses are normal. The left ventricular cavity is moderately
   dilated. Overall left ventricular systolic function is severely
   depressed (LVEF= 20 %) secondary to extensive septal akinesis, and
   hypokinesis of the inferior free wall, anterior free wall, and apex.
   There is no ventricular septal defect. The right ventricular cavity is
   dilated with depressed free wall contractility. The aortic valve
   leaflets (3) are mildly thickened but aortic stenosis is not present.
   The mitral valve leaflets are mildly thickened. There is no mitral
   valve prolapse. Moderate to severe (3+) mitral regurgitation is seen.
   The left ventricular inflow pattern suggests a restrictive filling
   abnormality, with elevated left atrial pressure. There is moderate
   pulmonary artery systolic hypertension.  (MR significantly increased
   from prior)
   No new imaging this AM
   Microbiology: Legionella Urine Ag neg
   Blood Cx [**1-1**] pend
   Urine Cx [**1-1**] neg
   Sputum [**1-1**]:
      GRAM STAIN (Final [**2114-1-1**]):
         [**10-29**] PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy, and recurrent
   aspiration pneumonia presenting with progressively worsening dyspnea
   over 2.5 weeks and hypoxic respiratory failure likely secondary to HCAP
   vs aspiration PNA/pneumonitis
   .
   #.  Hypoxic Respiratory Failure: Differential diagnosis includes HCAP,
   aspiration pneumonia or pneumonitis, and pulmonary edema. Patient has
   history of recurrent aspiration pneumonia and has failed outpatient
   regimen of levofloxacin now presenting with worsening hypoxemia and
   bibasilar infiltrates concerning for aspiration vs multifocal PNA.
   Subacute nature of symptoms with normal WBC and lack of bandemia make
   acute infection and sepsis less likely but hypotension concerning for
   evolving SIRS/sepsis in setting of abnormal CXR. CXR today shows volume
   overload with right pleural effusion making it difficult to assess
   interval change in RLL infiltrate. Likely has both infectious process
   at RLL and CHF contributing to respiratory status.
   - sputum cx growing gram positive rods, f/u speciation/sensis
   - Empiric antibiotics Vanco/cefepime/flagyl/levoflox for now while cx
   data pending
   - diuresis today with goal1-2 L neg 40 IV Lasix as needed
   - attempt to wean back to pressure support
   - Trend fever and WBC
   - follow up blood cx, sputum cx
   - albuterol and ipratropium MDI given wheezing, smoking history, and
   has been on them at [**Hospital3 240**]
   .
   # Tachycardia: unclear cause, minimally responsive to fluid boluses.
   Possibly secondary to anxiety; improved with increasing sedation. ?
   volume overload versus volume depletion?
   #. Hypotension: Given time course of hypotension and rapid improvement
   with fluids, likely mostly related to sedation. Lactate improved from
   3.1 to 1.2. Cardiogenic shock less likely given improvement.
   - continue IVFs to maintain MAP>65 and UOP>0.5cc/kg/hr
   - f/u TTE read
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE [**10-13**] with EF 10% although not clinically volume
   overloaded and no evidence of worsening pulmonary edema on CXR.
   Unlikely to be in cardiogenic shock since was able to wean off pressors
   overnight.
   - redose coumadinin 2mg today and follow INR in setting of abx
   .
   #. CAD: No evidence of acute ischemia on ECG. Trop mildly elevated
   0.05, 0.04, possibly element of demand ischemia with tachycardia and
   fever.
   - will continue ASA, home statin
   - ROMI, monitor on telemetry
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue home cymbalta
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin (redose in am based on INR while on abx since
   expect to rise)
   - ASA 325
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-2**] 02:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-1-1**] 03:30 PM
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments: patient and wife
   [**Name (NI) 36**] status: was DNR/DNI previously but consented to intubation
   Disposition: ICU

2114-01-03 10:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Congestive Heart Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2114-1-2**] 09:30 AM
 EKG - At [**2114-1-2**] 10:00 AM
 PICC LINE - START [**2114-1-2**] 10:00 PM
   TTE-EF=20%, septal akinesis and hypokinesis noted, worsening of 3+MR,
   moderate PA systolic hypertension
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2114-1-2**] 08:13 PM
   Levofloxacin - [**2114-1-2**] 08:36 PM
   Cefipime - [**2114-1-3**] 12:00 AM
   Vancomycin - [**2114-1-3**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2114-1-2**] 04:31 PM
   Fentanyl - [**2114-1-2**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2114-1-3**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.2
   HR: 96 (92 - 125) bpm
   BP: 94/52(66) {93/52(66) - 156/92(112)} mmHg
   RR: 16 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  3,079 mL
                                                                  2,054 mL
   PO:
             TF:
                                                                    100 mL
                                                                    201 mL
   IVF:
                                                                  2,909 mL
                                                                  1,793 mL
   Blood products:
   Total out:
                                                                    615 mL
                                                                    280 mL
   Urine:
                                                                    615 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,464 mL
                                                                  1,774 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 474 (362 - 498) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 39.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/46/126/28/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   171 K/uL
   109 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   111 mEq/L
   145 mEq/L
   36.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2114-1-1**]  05:58 PM
                            [**2114-1-1**]  07:03 PM
                            [**2114-1-2**]  12:43 AM
                            [**2114-1-2**]  02:54 AM
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
   WBC
   9.8
   7.6
   7.4
   Hct
   38.0
   38.8
   36.5
   Plt
   [**Telephone/Fax (3) 12424**]
   Cr
   0.6
   0.4
   0.4
   TropT
   0.05
   0.04
   TCO2
   31
   30
   30
   28
   Glucose
   112
   117
   109
   Other labs: PT / PTT / INR:20.5/36.8/1.9, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:72.0 %, Band:0.0 %, Lymph:16.0 %, Mono:9.0 %,
   Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Imaging: No new
   Assessment and Plan
   69 yo male with history of CVA now admitted with significant prodrome
   of cough and now with hypoxemic respiratory failure with pneumonia and
   with persistent hypotension patient did require substantial fluild
   support to normalize blood pressure.  Now with patient off of pressors,
   with CVL discontinued he has had no further benefit from IVF bolus in
   regards to heart rate.  His urine output, however, remains marginal.
   Volume Overload/Congestive Heart Failure
The patient is with
   significant postivie fluid balance and this is in the setting of
   signfiicant cardiomyopathy with severe MR and severe decrease in EF
   -Will need to continue with optimization of cardiac management
   -Will move to afterload reduction and maintain adequate rate control to
   look to optimize cardiac output
   -In addition would like to move to diuresis as possible to be able to
   move patient towards more favorable status in regards to liberation
   from mechanical ventilation
   -Will consult with Dr. [**First Name (STitle) **]
   [**Name (STitle) **] start with Lopressor and would like to add ACE-I if possible for
   afterload reduction today
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-Patient with poor mental
   status but otherwise favorable for extubation independent of fluid
   overload.
   -Will move to PSV today
   -Will hope to move to SBT in am
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   -continue with supportive Rx
 SHOCK, SEPTIC-_Appears to have been pulmonary source for worsening
   -Vanco/Flagyl/Levofloxacin/Cefepime
   -Will refine coverage to Vanco/Cefepime
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-2**] 02:00 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2114-1-1**] 03:30 PM
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin + Coumadin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2114-01-04 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   -started metoprolol --> up to 50mg TID
   -lasix 20 IV given x2 because positive > 2L in PM.  Put out 150-250 for
   3 hours, then back to 30cc/hr.
   -put on PS but having apneic episodes, thought to be secondary to
   oversedation.  Put back on AC and sedation turned off.
   -fever to 103.3 at 1900.  Ordered blood, urine, sputum Cx.  Put back on
   levo/flagyl (had peeled off abx at morning
   rounds)
   24 Hour Events:
 FEVER - 103.3
F - [**2114-1-3**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2114-1-2**] 08:13 PM
   Levofloxacin - [**2114-1-2**] 08:36 PM
   Cefipime - [**2114-1-3**] 12:00 AM
   Vancomycin - [**2114-1-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-1-3**] 08:00 AM
   Coumadin (Warfarin) - [**2114-1-3**] 04:25 PM
   Furosemide (Lasix) - [**2114-1-4**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 37.9
C (100.3
   HR: 95 (95 - 122) bpm
   BP: 116/68(84) {93/52(66) - 136/82(99)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  3,658 mL
                                                                    420 mL
   PO:
             TF:
                                                                    789 mL
                                                                    345 mL
   IVF:
                                                                  2,529 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    810 mL
   Urine:
                                                                    960 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,698 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 246 (246 - 246) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/43/155/24/-1
   Ve: 8.1 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Gen: Intubated, responds to questions with eye movements
   CV: tachycardic and regular, distant, no murmur appreciated
   Pulm: coarse breath sounds anteriorly, no discrete rhonchi or crackles
   appreicated
   Abd: obese, distended, +BS, NT
   Extrem: no significant edema, LE wasting b/l.  Decreased pulses
   throughout
   Labs / Radiology
   191 K/uL
   12.8 g/dL
   146 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   19 mg/dL
   114 mEq/L
   144 mEq/L
   39.9 %
   7.7 K/uL
        [image002.jpg]
                            [**2114-1-1**]  05:58 PM
                            [**2114-1-1**]  07:03 PM
                            [**2114-1-2**]  12:43 AM
                            [**2114-1-2**]  02:54 AM
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
   WBC
   9.8
   7.6
   7.4
   7.7
   Hct
   38.0
   38.8
   36.5
   39.9
   Plt
   [**Telephone/Fax (3) 12442**]91
   Cr
   0.6
   0.4
   0.4
   0.6
   TropT
   0.05
   0.04
   TCO2
   31
   30
   30
   28
   25
   Glucose
   112
   117
   109
   146
   Other labs: PT / PTT / INR:24.9/32.9/2.4, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:73.0 %, Band:0.0 %, Lymph:13.0 %, Mono:11.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   MICRO:
GRAM STAIN (Final [**2114-1-4**]):
      >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S)
   Urine cx pending
   CXR: unchanged from prior, bilateral pleural effusions and volume
   overload
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy, and recurrent
   aspiration pneumonia presenting with progressively worsening dyspnea
   over 2.5 weeks and hypoxic respiratory failure likely secondary to HCAP
   vs aspiration PNA/pneumonitis
   .
   #.  Hypoxic Respiratory Failure: Patient developed high grade fevers
   over past 24 hours after stopping antibiotics, making infection much
   more likely. Pt initially presented with RLL infiltrate but likely has
   multifocal infiltrates complicated by volume overload and pleural
   effusions secondary to [**Month/Day/Year 12452**]. Sputum cx have not grown a substantial
   number of any one organism. Blood cx neg so far.  Pt was diuresed
   yesterday with IV Lasix, with no improvement in CXR. Patient also had
   apneic episodes on PSV and required AC, likely [**2-6**] oversedation. Today
   mental status is improved off sedation.
   - Will continue empiric antibiotics with Vanco/cefepime/flagyl/levoflox
   - will attempt to rate control for improvement in cardiac output with
   metoprolol and reduce afterload with captopril
   - continue diuresis with goal neg 2L  today, give Lasix IV 20 mg now
   and prn
   - attempt to wean to pressure support and minimize sedation, PSV 5/5
   now and obtain ABG, then may try 5/0 for 1 hour and assess for possible
   extubation this PM
   - albuterol and ipratropium prn
   .
   #. Fever: pt developed fever over past 24 hours after levaquin and
   Flagyl were D/Ced, concerning for HAP. Also has femoral line in place.
   - D/C fem line and cx tip
   - cont abx as above
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12452**]
   - cont metoprolol
   .
   #. Hypotension: Given time course of hypotension and rapid improvement
   with fluids, likely mostly related to sedation and now normotensive.
   - rate control as above to improve hypotension through increased CO
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - continue coumadin 2mg today and follow INR in setting of abx
   .
   #. CAD: No evidence of acute ischemia on ECG. Trop mildly elevated
   0.05, 0.04, possibly element of demand ischemia with tachycardia and
   fever.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue home cymbalta
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-2**] 02:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-1-1**] 03:30 PM- D/C femoral line
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: patient and wife
   [**Name (NI) 36**] status: FULL, readdress with family once patient
s mental status
   improves
   Disposition: ICU

2114-01-04 10:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 103.3
F - [**2114-1-3**] 08:00 PM
   -Lopressor given with mild improvement in respiratory rate
   -He did have Lasix tried with minimal effect in regards to diruesis
   -Then patient did evolve significant and recurrent fever.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2114-1-2**] 08:13 PM
   Levofloxacin - [**2114-1-2**] 08:36 PM
   Cefipime - [**2114-1-3**] 12:00 AM
   Vancomycin - [**2114-1-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2114-1-3**] 04:25 PM
   Furosemide (Lasix) - [**2114-1-4**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2114-1-4**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 37.9
C (100.2
   HR: 99 (93 - 122) bpm
   BP: 117/69(84) {96/65(77) - 136/82(282)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  3,658 mL
                                                                    683 mL
   PO:
             TF:
                                                                    789 mL
                                                                    473 mL
   IVF:
                                                                  2,529 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                  1,145 mL
   Urine:
                                                                    960 mL
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,698 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 246 (246 - 246) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.36/43/155/24/-1
   Ve: 8.3 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, Less responsive this morning to questions
   Labs / Radiology
   12.8 g/dL
   191 K/uL
   146 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   19 mg/dL
   114 mEq/L
   144 mEq/L
   39.9 %
   7.7 K/uL
        [image002.jpg]
                            [**2114-1-1**]  05:58 PM
                            [**2114-1-1**]  07:03 PM
                            [**2114-1-2**]  12:43 AM
                            [**2114-1-2**]  02:54 AM
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
   WBC
   9.8
   7.6
   7.4
   7.7
   Hct
   38.0
   38.8
   36.5
   39.9
   Plt
   [**Telephone/Fax (3) 12442**]91
   Cr
   0.6
   0.4
   0.4
   0.6
   TropT
   0.05
   0.04
   TCO2
   31
   30
   30
   28
   25
   Glucose
   112
   117
   109
   146
   Other labs: PT / PTT / INR:24.9/32.9/2.4, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:73.0 %, Band:0.0 %, Lymph:13.0 %, Mono:11.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: AG-6
   Imaging: CXR-ETT in good position, bilateral large effusions seen with
   right > left
   Assessment and Plan
   patient with significant history of CVA--pontine and now admitted with
   fever and sepsis with concern for pulmonary source and now with
   significant issues leading to persistent respiratory failure of volume
   overload/congestive heart failure as well as persistent fever and
   concern for persistent sepsis.
   1)Respiratory Failure-
   -Vanco/Cefepime/Levoflox/Flagyl
   -Do have significant concern for VAP with fever and continued
   significant sputum production.  CXR is without new infiltrate but is
   difficult to confidently assess in the setting of substantial
   effusions.
   -Will resend sputum today
   -Has been on ABX for 3 days only
will continue
   -Move to PSV today and will check ABG at 60 minutes
   2)H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   -Follow exam
   3)Congestive Heart Failure-
   -Lopressor 50mg tid
   -Will need to add Captopril at 6.25mg and titrate up
   -Lasix as needed to effect diuresis as first step today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-4**] 02:37 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2114-1-1**] 03:30 PM
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2114-01-05 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - gave 20 IV Lasix x 2 with good UOP response
   - PSV 5/5, but looked uncomfortable, tachpnic, borderline ABG, decided
   to diurese today and extubate in AM after 1 hour on 5/0, kept on PSV
   [**12-9**] overnight
   - started captopril
   - D/Ced fem line
   - will obtain chest CT after diuresis if CXR still looks concerning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-1-4**] 08:00 AM
   Levofloxacin - [**2114-1-4**] 10:00 AM
   Metronidazole - [**2114-1-4**] 10:10 PM
   Cefipime - [**2114-1-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2114-1-4**] 04:00 PM
   Furosemide (Lasix) - [**2114-1-4**] 04:55 PM
   Fentanyl - [**2114-1-4**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-5**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 96 (93 - 119) bpm
   BP: 105/59(74) {95/52(66) - 153/96(282)} mmHg
   RR: 26 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  1,985 mL
                                                                    161 mL
   PO:
             TF:
                                                                  1,185 mL
                                                                      8 mL
   IVF:
                                                                    490 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  2,795 mL
                                                                    150 mL
   Urine:
                                                                  2,795 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -810 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 423 (423 - 450) mL
   Vt (Spontaneous): 193 (162 - 359) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.37/48/138/30/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 345
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   12.6 g/dL
   136 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   17 mg/dL
   111 mEq/L
   147 mEq/L
   38.6 %
   7.8 K/uL
        [image002.jpg]
                            [**2114-1-2**]  12:43 AM
                            [**2114-1-2**]  02:54 AM
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
                            [**2114-1-4**]  11:18 AM
                            [**2114-1-4**]  03:21 PM
                             [**2114-1-5**]  04:23 AM
   WBC
   7.6
   7.4
   7.7
   7.8
   Hct
   38.8
   36.5
   39.9
   38.6
   Plt
   191
   171
   191
   190
   Cr
   0.4
   0.4
   0.6
   0.5
   0.4
   TropT
   0.04
   TCO2
   30
   30
   28
   25
   29
   Glucose
   117
   109
   146
   132
   136
   Other labs: PT / PTT / INR:21.3/30.6/2.0, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:5.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy, and recurrent
   aspiration pneumonia presenting with progressively worsening dyspnea
   over 2.5 weeks and hypoxic respiratory failure likely secondary to HCAP
   vs aspiration PNA/pneumonitis
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Most likely,
   patient has pulmonary infection leading to respiratory failure, but
   also contributing is poor forward flow due to volume overload.  We will
   continue to treat for HCAP/VAP pneumonia, while concurrently giving
   lasix and afterload reducers to improve cardiac output.  Patient also
   had apneic episodes on PSV and required AC, likely [**2-6**] oversedation.
   Today mental status is improved off sedation.
   - Will continue empiric antibiotics for HCAP or VAP with
   Vanco/cefepime/flagyl/levoflox
   - will attempt to rate control for improvement in cardiac output with
   metoprolol and reduce afterload with captopril
   - Continue diuresis
   - Attempt to wean to pressure support and minimize sedation for
   extubation today
   - Albuterol and ipratropium prn
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12452**]
   - cont metoprolol
   .
   #. Fever: pt developed fever over past 24 hours after levaquin and
   Flagyl were D/Ced, concerning for HAP. Also has femoral line in place.
   - Femoral line discontinued yesterday
   - cont abx as above
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - Warfarin 2.5 today
   - Follow INR
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue home cymbalta
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   ICU Care
   Nutrition: Tube feeds (held overnight)
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: Anticoagulated on coumadin
   Stress ulcer: Ranitidine
   VAP:  Antibiotics as above
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU for now

2114-01-05 11:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Copuius secretions, although clear colored.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2114-1-5**] 12:00 AM
   Metronidazole - [**2114-1-5**] 06:00 AM
   Vancomycin - [**2114-1-5**] 08:25 AM
   Levofloxacin - [**2114-1-5**] 10:26 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2114-1-4**] 04:00 PM
   Furosemide (Lasix) - [**2114-1-4**] 04:55 PM
   Ranitidine (Prophylaxis) - [**2114-1-5**] 08:36 AM
   Fentanyl - [**2114-1-5**] 08:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   quadraplegia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-1-5**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.3
   HR: 102 (92 - 119) bpm
   BP: 158/91(114) {95/51(65) - 158/96(114)} mmHg
   RR: 18 (18 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  1,985 mL
                                                                    774 mL
   PO:
             TF:
                                                                  1,185 mL
                                                                      8 mL
   IVF:
                                                                    490 mL
                                                                    576 mL
   Blood products:
   Total out:
                                                                  2,795 mL
                                                                    270 mL
   Urine:
                                                                  2,795 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -810 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 423 (423 - 423) mL
   Vt (Spontaneous): 166 (166 - 359) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.35/54/137/30/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Increased, Moves eyes only, able to "look up"
   for "yes"
   Labs / Radiology
   12.6 g/dL
   190 K/uL
   136 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   17 mg/dL
   111 mEq/L
   147 mEq/L
   38.6 %
   7.8 K/uL
        [image002.jpg]
                            [**2114-1-2**]  02:54 AM
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
                            [**2114-1-4**]  11:18 AM
                            [**2114-1-4**]  03:21 PM
                             [**2114-1-5**]  04:23 AM
                             [**2114-1-5**]  10:24 AM
   WBC
   7.6
   7.4
   7.7
   7.8
   Hct
   38.8
   36.5
   39.9
   38.6
   Plt
   191
   171
   191
   190
   Cr
   0.4
   0.4
   0.6
   0.5
   0.4
   TropT
   0.04
   TCO2
   30
   28
   25
   29
   31
   Glucose
   117
   109
   146
   132
   136
   Other labs: PT / PTT / INR:21.3/30.6/2.0, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:5.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   yom chronic CVS syndrome, now s/p sepsis and persistent respiratory
   failure.
   RESPIRATORY FAILURE -- Attributed to pneumonia and in part CHF (acute
   on chronic).  Remains mechanically ventilated, and poor RSBI.
   Secretions clearing, but remain copious today.  CXR with persistent
   bibasilar densities (effusions +/- inflitrates).  Continue vancomycin,
   cefopime, levo and flagyl.  Desire net diuresis if tolerates.
   SEPSIS -- s/p vasopressors and resussitation.  Improved.
   HYPOTENSION -- resolved.  Monitor BP, maintain MAP > 60 mmHg.
   CHF -- chronic systolic dysfunction (cardiomyopathy EF= 10-20% and MR)
   with component of acute decompenstation in context of sepsis.  Continue
   b-blocker and ACE-inhibitor as tolerated, and net diurese.
   FLUIDS -- net volume expanded in context of volume resussitation.
   Desire to net dirurese if tolerates.
   H/O CVA --  neurologically 'locked-in' as baseline.  Fascibulations of
   tongue and lip.  Able to an communicate with eye movement (look up for
   "yes").  Continue coumadin, maintain PT INR.
   1)Respiratory Failure-
   -Vanco/Cefepime/Levoflox/Flagyl
   -Do have significant concern for VAP with fever and continued
   significant sputum production.  CXR is without new infiltrate but is
   difficult to confidently assess in the setting of substantial
   effusions.
   -Will resend sputum today
   -Has been on ABX for 3 days only
will continue
   -Move to PSV today and will check ABG at 60 minutes
   2)H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   -Follow exam
   3)Congestive Heart Failure-
   -Lopressor 50mg tid
   -Will need to add Captopril at 6.25mg and titrate up
   -Lasix as needed to effect diuresis as first step today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-01-06 08:17:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   --Blood culture 1/4 bottles with gram + cocci in clusters from CVL
   --Keeps having apnea on current vent setting; respiratory changed it so
   that if his minute ventilation fell below 4, the ventilator would take
   a breath for him
   --Changed citalopram to lexapro, as nurse was having trouble crushing
   lexapro in NG tube
   --We were going to do a CTA to rule out PE, but we couldn't get a
   peripheral line and thus couldn't give contrast; patient to go for LEUS
   next week
   History obtained from Medical records
   Patient unable to provide history: pontine stroke
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2114-1-5**] 10:26 AM
   Cefipime - [**2114-1-6**] 12:05 AM
   Metronidazole - [**2114-1-6**] 06:05 AM
   Vancomycin - [**2114-1-6**] 07:59 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-5**] 08:36 AM
   Fentanyl - [**2114-1-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   unable to obtain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-6**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 104 (96 - 112) bpm
   BP: 109/64(78) {91/55(69) - 158/91(114)} mmHg
   RR: 25 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  2,574 mL
                                                                  1,084 mL
   PO:
             TF:
                                                                    554 mL
                                                                    431 mL
   IVF:
                                                                  1,414 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                    546 mL
                                                                    320 mL
   Urine:
                                                                    546 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,028 mL
                                                                    764 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 430 (121 - 430) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 136
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.35/54/137/27/3
   Ve: 7 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished, copious secretions
   Eyes / Conjunctiva: PERRL, weak gag reflex
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, no m,r,g
   JVD above angle of jaw
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, locked-in [**2-6**] pontine stroke
   Labs / Radiology
   216 K/uL
   12.6 g/dL
   152 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.4 mEq/L
   18 mg/dL
   110 mEq/L
   143 mEq/L
   39.3 %
   8.3 K/uL
        [image002.jpg]
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
                            [**2114-1-4**]  11:18 AM
                            [**2114-1-4**]  03:21 PM
                             [**2114-1-5**]  04:23 AM
                             [**2114-1-5**]  10:24 AM
                             [**2114-1-6**]  03:34 AM
   WBC
   7.4
   7.7
   7.8
   8.3
   Hct
   36.5
   39.9
   38.6
   39.3
   Plt
   171
   191
   190
   216
   Cr
   0.4
   0.6
   0.5
   0.4
   0.5
   TCO2
   30
   28
   25
   29
   31
   Glucose
   109
   146
   132
   136
   152
   Other labs: PT / PTT / INR:21.3/30.6/2.0, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:5.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   CXR:
   CHEST: The position of the various lines and tubes is unchanged.
   Bilateral
   effusions are again noted, consistent with some failure, but are
   essentially
   unchanged since the prior chest x-ray of [**1-4**].
   IMPRESSION: No change
   Assessment and Plan
   69M with pontine CVA, CAD, [**Month (only) 12475**] cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA/pneumonitis vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Most likely,
   patient has pulmonary infection leading to respiratory failure, but
   also contributing is poor forward flow due to volume overload.  We will
   continue to treat for HCAP/VAP pneumonia.  Patient postive 2 liters
   yesterday, will consider more aggressive diuresis today.  Patient also
   had apneic episodes on PSV and required AC, likely [**2-6**] oversedation;
   mental status is improved off sedation.
   - Will continue empiric antibiotics for HCAP or VAP with
   Vanco/cefepime/flagyl/levoflox
   - will attempt to rate control for improvement in cardiac output with
   metoprolol and reduce afterload with captopril as BP tolerates
   - diuresis
 consider lasix gtt with metolazone today if lasix IV PRN
   dosing does not achieve diuresis
   - wean to pressure support and minimize sedation for possible
   extubation
   - Albuterol and ipratropium prn
   - cont current MMV vent settings, diuresis will hopefully optimize
   ventilation
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12475**] systolic CHF
   - Continue metoprolol, ACEi, diuresis
   .
   #. Fever: pt developed fever over past 24 hours after levaquin and
   Flagyl were D/Ced, concerning for HAP. Also has femoral line in place.
   Afebrile past 24 hours.
   - Femoral line discontinued 2 days ago
   - cont abx as above
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - Warfarin 2.5 today
   - Follow INR
   - diuresis as above
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue home cymbalta
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   BARRIERS TO EXTUBATION:  Secretions, anxiety/discomfort on decreased
   PEEP, strength
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-6**] 04:40 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-01-06 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated via ETT, now on MMV mode.
   Appears more comfortable.
   Continues to experience copious respiratory secretions.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2114-1-6**] 12:05 AM
   Metronidazole - [**2114-1-6**] 06:05 AM
   Vancomycin - [**2114-1-6**] 07:59 AM
   Levofloxacin - [**2114-1-6**] 10:06 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2114-1-6**] 12:00 AM
   Furosemide (Lasix) - [**2114-1-6**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-1-6**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 108 (96 - 112) bpm
   BP: 124/78(91) {91/55(69) - 129/88(99)} mmHg
   RR: 27 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  2,574 mL
                                                                  1,295 mL
   PO:
             TF:
                                                                    554 mL
                                                                    566 mL
   IVF:
                                                                  1,414 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                    546 mL
                                                                    335 mL
   Urine:
                                                                    546 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,028 mL
                                                                    960 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 474 (121 - 474) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 136
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 3.5 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Moves eyes, up for "yes" and to side for
   "no"
   Labs / Radiology
   12.6 g/dL
   216 K/uL
   152 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.4 mEq/L
   18 mg/dL
   110 mEq/L
   143 mEq/L
   39.3 %
   8.3 K/uL
        [image002.jpg]
                            [**2114-1-2**]  03:12 AM
                            [**2114-1-2**]  10:34 AM
                            [**2114-1-3**]  04:31 AM
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
                            [**2114-1-4**]  11:18 AM
                            [**2114-1-4**]  03:21 PM
                             [**2114-1-5**]  04:23 AM
                             [**2114-1-5**]  10:24 AM
                             [**2114-1-6**]  03:34 AM
   WBC
   7.4
   7.7
   7.8
   8.3
   Hct
   36.5
   39.9
   38.6
   39.3
   Plt
   171
   191
   190
   216
   Cr
   0.4
   0.6
   0.5
   0.4
   0.5
   TCO2
   30
   28
   25
   29
   31
   Glucose
   109
   146
   132
   136
   152
   Other labs: PT / PTT / INR:21.3/30.6/2.0, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:5.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   70 yom chronic CVS syndrome, now s/p sepsis and persistent respiratory
   failure.
   RESPIRATORY FAILURE -- Attributed to pneumonia and in part CHF (acute
   on chronic).  Remains mechanically ventilated, and poor RSBI.
   Secretions clearing in color, but remain copious today.  CXR with
   persistent bibasilar densities (effusions +/- inflitrates).  Continue
   emirical vancomycin, cefopime, levo and flagyl for complete course
   HCAP.  Desire net diuresis if tolerates.  hopefully will be able to
   work towards SBT once able to net diureses.
   SEPSIS -- s/p vasopressors and resussitation.  Improved.  Monitor VS.
   HYPOTENSION -- resolved.  Monitor BP, maintain MAP > 60 mmHg.
   PULMONARY INFILTRATES
 likley pneumonia.  [**Month (only) 51**] be component of CHF.
   Continue antimicrobials and attempt to net diurese.
   BACTEREMIA -- GPC, likely line repated infection, although may be
   related to sepsis/pneumonia.  Central line d/c'd and await final
   identification of GPC organism.
   CHF -- chronic systolic dysfunction (cardiomyopathy EF= 10-20% and MR)
   with component of acute decompenstation in context of sepsis.  Continue
   b-blocker and ACE-inhibitor as tolerated, and net diurese (if
   tolerates).  Continue anticoagulation.
   FLUIDS -- net volume expanded in context of volume resussitation.
   Desire to net dirurese if tolerates.
   H/O CVA --  neurologically 'locked-in' as baseline.  Fascibulations of
   tongue and lip.  Able to an communicate with eye movement (look up for
   "yes").  Continue coumadin, maintain PT INR.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-6**] 04:40 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-01-07 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: --BCX with "staph species" already on vanc
   --UCX with NGTD
   --late afternoon slightly positive, given second 80IV of lasix
   --only net (-) 500 this evening, will try metolazone 30 min before
   lasix in AM
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2114-1-6**] 06:05 AM
   Levofloxacin - [**2114-1-6**] 10:06 AM
   Cefipime - [**2114-1-6**] 12:21 PM
   Vancomycin - [**2114-1-6**] 08:29 PM
   Ceftazidime - [**2114-1-7**] 12:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-1-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-7**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.8
C (100
   Tcurrent: 35.8
C (96.5
   HR: 95 (92 - 110) bpm
   BP: 118/63(81) {101/57(74) - 131/78(91)} mmHg
   RR: 16 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.2 kg (admission): 87.5 kg
             Total In:
                                                                  2,704 mL
                                                                    628 mL
   PO:
             TF:
                                                                  1,254 mL
                                                                    348 mL
   IVF:
                                                                    840 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,600 mL
   Urine:
                                                                  2,850 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                   -972 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 310 (283 - 474) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.45/56/136/35/13
   Ve: 9.5 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Well nourished, copious secretions
   Eyes / Conjunctiva: PERRL, weak gag reflex
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, no m,r,g
   JVD above angle of jaw
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, able to shake head slightly and move eyes in
   response to questions, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, locked-in [**2-6**] pontine stroke
   Labs / Radiology
   225 K/uL
   12.7 g/dL
   140 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.4 mEq/L
   17 mg/dL
   105 mEq/L
   147 mEq/L
   40.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
                            [**2114-1-4**]  11:18 AM
                            [**2114-1-4**]  03:21 PM
                             [**2114-1-5**]  04:23 AM
                             [**2114-1-5**]  10:24 AM
                             [**2114-1-6**]  03:34 AM
                             [**2114-1-6**]  05:53 PM
                             [**2114-1-7**]  04:02 AM
                             [**2114-1-7**]  04:10 AM
   WBC
   7.7
   7.8
   8.3
   8.3
   Hct
   39.9
   38.6
   39.3
   40.0
   Plt
   191
   190
   216
   225
   Cr
   0.6
   0.5
   0.4
   0.5
   0.5
   0.5
   TCO2
   25
   29
   31
   40
   Glucose
   146
   132
   136
   152
   143
   140
   Other labs: PT / PTT / INR:21.3/30.6/2.0, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:5.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, [**Year (4 digits) 12475**] cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Most likely,
   patient has pulmonary infection leading to respiratory failure, but
   also contributing is poor forward flow due to volume overload.  We are
   continuing to diurese to optimize for possible extubation. We will
   continue to treat for HCAP/VAP pneumonia.  Patient also had apneic
   episodes on PSV and required AC, likely [**2-6**] oversedation; mental status
   is improved off sedation.
   - scopolamine patch for secretions
   - Will continue empiric antibiotics for HCAP or VAP with Vanco
   (D7)/ceftaz (D2)
   - cont rate control and reduce afterload with metoprolol/captopril
   - diuresis
lasix IV with metolazone [**Hospital1 7**] today, goal TBB -2L
   - wean to pressure support and minimize sedation for possible
   extubation, NPO at MN
   - Albuterol and ipratropium prn
   .
   #. HAP: Has pseudomonas in sputum, switched from cefepime to
   ceftazidime yesterday. Afebrile, no leukocytosis, and decreasing
   secretions.
   - cont ceftaz/vanco as above
   .
   #. Hypernatremia: Likely due to diuresis in the setting of being NPO
   intermittently and minimal free water intake.
   - increase free water boluses to 150 cc q4h
   - PM lytes
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12475**] systolic CHF
   - Continue metoprolol, ACEi, diuresis
   .
   #. Fever: No fevers for past 48 hours. 1 positive blood cx growing
   CoNS. Likely was transiently bacteremic from femoral line.
   - cont abx as above
   - repeat cx if spikes
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - Warfarin 2.5
   - Follow INR
   - diuresis as above
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   BARRIERS TO EXTUBATION:  Secretions, anxiety/discomfort on decreased
   PEEP, strength
   ICU Care
   Nutrition: Tube feeds (held overnight)
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: Anticoagulated on coumadin
   Stress ulcer: Ranitidine
   VAP:  Antibiotics as above
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU for now

2114-01-07 12:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Antimicrobials adjusted.
   Overall, appears more comfortable.
   History obtained from Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2114-1-6**] 06:05 AM
   Cefipime - [**2114-1-6**] 12:21 PM
   Ceftazidime - [**2114-1-7**] 08:00 AM
   Vancomycin - [**2114-1-7**] 08:17 AM
   Levofloxacin - [**2114-1-7**] 09:58 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-7**] 08:17 AM
   Furosemide (Lasix) - [**2114-1-7**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-1-7**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 93 (80 - 105) bpm
   BP: 112/63(79) {90/54(70) - 131/74(90)} mmHg
   RR: 20 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.3 kg (admission): 87.5 kg
             Total In:
                                                                  2,704 mL
                                                                  1,432 mL
   PO:
             TF:
                                                                  1,254 mL
                                                                    600 mL
   IVF:
                                                                    840 mL
                                                                    622 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  2,035 mL
   Urine:
                                                                  2,850 mL
                                                                  2,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 357 (283 - 435) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.45/56/136/35/13
   Ve: 9.7 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Moves eyes
   Labs / Radiology
   12.7 g/dL
   225 K/uL
   140 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.4 mEq/L
   17 mg/dL
   105 mEq/L
   147 mEq/L
   40.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2114-1-3**]  07:33 PM
                            [**2114-1-4**]  04:36 AM
                            [**2114-1-4**]  11:18 AM
                            [**2114-1-4**]  03:21 PM
                             [**2114-1-5**]  04:23 AM
                             [**2114-1-5**]  10:24 AM
                             [**2114-1-6**]  03:34 AM
                             [**2114-1-6**]  05:53 PM
                             [**2114-1-7**]  04:02 AM
                             [**2114-1-7**]  04:10 AM
   WBC
   7.7
   7.8
   8.3
   8.3
   Hct
   39.9
   38.6
   39.3
   40.0
   Plt
   191
   190
   216
   225
   Cr
   0.6
   0.5
   0.4
   0.5
   0.5
   0.5
   TCO2
   25
   29
   31
   40
   Glucose
   146
   132
   136
   152
   143
   140
   Other labs: PT / PTT / INR:21.3/30.6/2.0, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:5.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   70 yom chronic CVS syndrome, now s/p sepsis and persistent respiratory
   failure.
   RESPIRATORY FAILURE -- Attributed to pneumonia and in part CHF (acute
   on chronic).  Remains mechanically ventilated, and poor RSBI.
   Secretions clearing in color, but remain copious today.  CXR with
   persistent bibasilar densities (effusions +/- inflitrates).  Continue
   emirical vancomycin, cefopime, levo and flagyl for complete course
   HCAP.  Desire net diuresis if tolerates.  hopefully will be able to
   work towards SBT once able to net diureses.  Need to assess if episodes
   of apnea resolved.
   SEPSIS -- s/p vasopressors and resussitation.  Improved.  Monitor VS.
   HYPOTENSION -- resolved.  Monitor BP, maintain MAP > 60 mmHg.
   PULMONARY INFILTRATES
 attributed in part to pneumonia.  [**Month (only) 51**] be
   component of CHF with pleural effusions.  Continue antimicrobials
   (ceftazadime, Levo, Vanco) and continue to net diurese.
   BACTEREMIA -- GPC, likely line repated infection, although may be
   related to sepsis/pneumonia.  Central line d/c'd and await final
   identification of GPC organism.  F/U blood cultures.
   CHF -- chronic systolic dysfunction (cardiomyopathy EF= 10-20% and MR)
   with component of acute decompenstation in context of sepsis.  Continue
   b-blocker and ACE-inhibitor as tolerated, and net diurese (if
   tolerates).  Continue anticoagulation.
   HYPERNATREMIA -- increase free water bolus via PEG.
   FLUIDS -- net volume expanded in context of volume resussitation.
   Desire to net dirurese if tolerates.
   H/O CVA --  neurologically 'locked-in' as baseline.  Fascibulations of
   tongue and lip.  Able to an communicate with eye movement (look up for
   "yes").  Continue coumadin, maintain PT INR.
   NUTRITIONAL SUPPORT -- TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-01-08 06:38:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - got lasix with metolazone [**Hospital1 7**] --> TBB --> (-) 1.5 liters yesterday
   - Na elevated so increased free water boluses to 150cc q4 and Na
   improved to 140
   - had been on scopolamine patch at home, so added this back on
   - planned to extubate with wife present, possibly today
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2114-1-6**] 06:05 AM
   Cefipime - [**2114-1-6**] 12:21 PM
   Levofloxacin - [**2114-1-7**] 09:58 AM
   Vancomycin - [**2114-1-7**] 08:00 PM
   Ceftazidime - [**2114-1-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-7**] 08:17 AM
   Furosemide (Lasix) - [**2114-1-7**] 09:00 PM
   Fentanyl - [**2114-1-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   unable to obtain [**2-6**] intubation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-8**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 100 (78 - 114) bpm
   BP: 110/52(70) {90/52(67) - 144/90(107)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 87.5 kg
             Total In:
                                                                  3,184 mL
                                                                    766 mL
   PO:
             TF:
                                                                  1,203 mL
   IVF:
                                                                  1,040 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  4,725 mL
                                                                    970 mL
   Urine:
                                                                  4,695 mL
                                                                    970 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,541 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 187 (187 - 435) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 49 cmH2O/mL
   SpO2: 100%
   ABG: ///40/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, locked-in [**2-6**] pontine stroke
   Labs / Radiology
   244 K/uL
   12.0 g/dL
   114 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.1 mEq/L
   16 mg/dL
   94 mEq/L
   140 mEq/L
   37.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2114-1-4**]  11:18 AM
                            [**2114-1-4**]  03:21 PM
                             [**2114-1-5**]  04:23 AM
                             [**2114-1-5**]  10:24 AM
                             [**2114-1-6**]  03:34 AM
                             [**2114-1-6**]  05:53 PM
                             [**2114-1-7**]  04:02 AM
                             [**2114-1-7**]  04:10 AM
                             [**2114-1-7**]  04:07 PM
                             [**2114-1-8**]  03:35 AM
   WBC
   7.8
   8.3
   8.3
   9.1
   Hct
   38.6
   39.3
   40.0
   37.0
   Plt
   190
   216
   225
   244
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   29
   31
   40
   Glucose
   132
   136
   152
   143
   140
   119
   114
   Other labs: PT / PTT / INR:22.8/28.0/2.2, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:71.0 %, Band:0.0 %, Lymph:20.0 %, Mono:4.0 %,
   Eos:5.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, [**Year (4 digits) 12475**] cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Most likely,
   patient has pulmonary infection leading to respiratory failure, but
   also contributing is poor forward flow due to volume overload.  We are
   continuing to diurese to optimize for possible extubation. We will
   continue to treat for HCAP/VAP pneumonia.  Patient also had apneic
   episodes on PSV and required AC, likely [**2-6**] oversedation; mental status
   has improved off sedation.
   - scopolamine patch for secretions
   - Will continue empiric antibiotics for HCAP or VAP with Vanco
   (D8)/ceftaz (D3), levofloxacin D8
   - cont rate control and reduce afterload with metoprolol/captopril
   - diuresis
lasix IV with metolazone [**Hospital1 7**] today, goal TBB -2L -> will
   hold this morning in setting of progressive metabolic alkalosis
   - wean to pressure support and minimize sedation for possible
   extubation, cont NPO
   - Albuterol and ipratropium prn
   .
   #. HAP: Has pseudomonas in sputum, switched from cefepime to
   ceftazidime yesterday. Afebrile, no leukocytosis, and decreasing
   secretions.
   - cont ceftaz/vanco as above
   .
   #  Metabolic alkalosis- likely [**2-6**] volume contraction, bicarb trending
   up in setting of diuresis, now 40
   -  will consider holding lasix and metolazone this morning
   .
   #. Hypernatremia: Likely due to diuresis in the setting of being NPO
   intermittently and minimal free water intake.  Corrected with free
   water boluses.
   - PRN free water boluses to 150 cc q4h
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12475**] systolic CHF
   - Continue metoprolol, ACEi, diuresis
   .
   #. Fever: No fevers for past 72 hours. 1 positive blood cx growing
   CoNS. Likely was transiently bacteremic from femoral line.
   - cont abx as above
   - repeat cx if spikes
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - Warfarin 2.5
   - Follow INR
   - diuresis as above
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   BARRIERS TO EXTUBATION:  Secretions, anxiety/discomfort on decreased
   PEEP, strength
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:  warfarin
   Stress ulcer:  ranitidine
   VAP:  ceftaz, vanc, levoflox
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-01-09 07:10:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2114-1-8**] 10:08 AM
   - held diuretics in A.M. [**2-6**] met alk, likely contraction
   - no extubation attempt yesterday
   - d/c'd vanc/levoflox, 10 day course of ceftaz, yesterday [**3-14**]
   - DVT in saphenous extending to femoral -> family contemplating IVC
   filter, no change in warfarin dose
   - need to clarify goals of care with family (e.g. no re-intubation, no
   trach, ? IVC filter etc)
   - lasix gtt with metolazone overnight, improved UOP at expense of ACEi,
   B blockade
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2114-1-6**] 12:21 PM
   Vancomycin - [**2114-1-8**] 08:50 AM
   Levofloxacin - [**2114-1-8**] 09:56 AM
   Ceftazidime - [**2114-1-8**] 04:26 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2114-1-9**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   denies pain this A.M.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-9**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 105 (82 - 111) bpm
   BP: 103/63(76) {80/45(58) - 107/80(86)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 87.5 kg
             Total In:
                                                                  2,506 mL
                                                                    568 mL
   PO:
             TF:
                                                                    536 mL
                                                                    355 mL
   IVF:
                                                                    855 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    640 mL
   Urine:
                                                                  1,765 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    741 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 289 (254 - 503) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.54/47/152/40/15
   Ve: 6 L/min
   PaO2 / FiO2: 507
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   holosystolic murmur at apex
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, locked in [**2-6**] pontine stroke
   Labs / Radiology
   238 K/uL
   12.5 g/dL
   138 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   18 mg/dL
   96 mEq/L
   140 mEq/L
   39.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2114-1-5**]  10:24 AM
                             [**2114-1-6**]  03:34 AM
                             [**2114-1-6**]  05:53 PM
                             [**2114-1-7**]  04:02 AM
                             [**2114-1-7**]  04:10 AM
                             [**2114-1-7**]  04:07 PM
                             [**2114-1-8**]  03:35 AM
                             [**2114-1-8**]  05:21 PM
                             [**2114-1-9**]  03:49 AM
                             [**2114-1-9**]  04:02 AM
   WBC
   8.3
   8.3
   9.1
   7.0
   Hct
   39.3
   40.0
   37.0
   39.1
   Plt
   [**Telephone/Fax (3) 12514**]38
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   TCO2
   31
   40
   41
   Glucose
   152
   143
   140
   119
   114
   143
   138
   Other labs: PT / PTT / INR:22.1/28.1/2.1, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:50.0 %, Band:0.0 %, Lymph:35.0 %, Mono:5.0 %,
   Eos:8.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Imaging: LENIs- Thrombus involving the right greater saphenous vein as
   it enters the common femoral vein as described, but no thrombus is seen
   within the common femoral vein.
   Microbiology: [**2114-1-7**] blood cx pending
   ECG: tele- rare bigeminy
   Assessment and Plan
   69M with pontine CVA, CAD, [**Month/Day/Year 12475**] cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Patient may have
   had pulmonary infection leading to respiratory failure, but also likely
   contributing is poor forward flow due to volume overload.  We are
   continuing to diurese to optimize for possible extubation. We will
   continue to treat for HCAP/VAP pneumonia.  Patient also had apneic
   episodes on PSV and required AC, likely [**2-6**] oversedation; mental status
   has improved off sedation.  Diuresis limited by BP, switched to lasix
   gtt with improved hemodynamics.
   - scopolamine patch for secretions
   - Will continue ceftaz, today day [**4-14**]
   - cont rate control and reduce afterload with metoprolol/captopril
   - diuresis
lasix gtt with metolazone [**Hospital1 7**] today, goal (-) 2 liters
   - wean to pressure support and minimize sedation for possible
   extubation, cont NPO at 4 a.m.
   - Albuterol and ipratropium prn
   .
   #. HAP: Has pseudomonas in sputum, switched from cefepime to
   ceftazidime. Afebrile, no leukocytosis, and decreasing secretions.
   - cont ceftaz as above
   .
   #  Metabolic alkalosis- likely [**2-6**] volume contraction, bicarb trending
   up in setting of diuresis, now 40
   -  will cont diuresis, KCl supplementation, check chem. 7 at 13:00
   .
   #. Hypernatremia: Likely due to diuresis in the setting of being NPO
   intermittently and minimal free water intake.  Corrected with free
   water boluses.
   - PRN free water boluses to 150 cc q4h
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  Family considering IVC filter.  Will not change warfarin
   in interim.
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12475**] systolic CHF
   - Continue metoprolol, ACEi, diuresis
   .
   #. Fever: No fevers for past 72 hours. 1 positive blood cx growing
   CoNS. Likely was transiently bacteremic from femoral line.
   - cont abx as above
   - repeat cx if spikes
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - Warfarin 2.5
   - Follow INR
   - diuresis as above
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   BARRIERS TO EXTUBATION:  Secretions, anxiety/discomfort on decreased
   PEEP, strength
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-9**] 01:16 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:   warfarin
   Stress ulcer:   ranitidine
   VAP:  ceftaz
   Comments:
   Communication:  Comments:
   Code status:   full -> need to clarify re-intubation
   Disposition:

2114-01-10 08:01:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure
   24 Hour Events:
   - bicarb came down, PCO2 came up with several rounds of KCL
   - difficult to diurese, lasix drip turned up to 15 per hour
   - Held lasix this AM given marked electrolyte abnormalities
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-1-8**] 08:50 AM
   Levofloxacin - [**2114-1-8**] 09:56 AM
   Ceftazidime - [**2114-1-9**] 05:17 PM
   Cefazolin - [**2114-1-10**] 07:39 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-9**] 08:17 AM
   Fentanyl - [**2114-1-9**] 06:41 PM
   Other medications:
   Changes to medical and family history:
   no pain this A.M.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2114-1-10**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 90 (88 - 114) bpm
   BP: 99/51(67) {88/49(62) - 121/74(87)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  2,552 mL
                                                                    741 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    398 mL
   IVF:
                                                                    508 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  2,745 mL
                                                                  3,040 mL
   Urine:
                                                                  2,745 mL
                                                                  3,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -193 mL
                                                                 -2,299 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 353 (300 - 501) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 89
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.54/55/113/41/21
   Ve: 6.5 L/min
   PaO2 / FiO2: 377
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, locked in
   Labs / Radiology
   247 K/uL
   12.6 g/dL
   136 mg/dL
   0.6 mg/dL
   41 mEq/L
   3.2 mEq/L
   22 mg/dL
   92 mEq/L
   140 mEq/L
   37.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2114-1-7**]  04:07 PM
                             [**2114-1-8**]  03:35 AM
                             [**2114-1-8**]  05:21 PM
                             [**2114-1-9**]  03:49 AM
                             [**2114-1-9**]  04:02 AM
                             [**2114-1-9**]  11:45 AM
                             [**2114-1-9**]  05:08 PM
                             [**2114-1-9**]  05:14 PM
                             [**2114-1-10**]  04:22 AM
                             [**2114-1-10**]  05:05 AM
   WBC
   9.1
   7.0
   7.8
   Hct
   37.0
   39.1
   37.6
   Plt
   244
   238
   247
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   41
   42
   49
   Glucose
   119
   114
   143
   138
   153
   136
   Other labs: PT / PTT / INR:20.3/24.2/1.9, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:50.0 %, Band:0.0 %, Lymph:35.0 %, Mono:5.0 %,
   Eos:8.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, [**Year (4 digits) 12475**] cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Patient may have
   had pulmonary infection leading to respiratory failure, but also likely
   contributing is poor forward flow due to volume overload.  We are
   continuing to diurese to optimize for possible extubation, possibly
   [**2114-1-12**].  We will continue to treat for HCAP/VAP pneumonia.  Patient
   also had apneic episodes on PSV and required AC, likely [**2-6**]
   oversedation; mental status has improved off sedation.  Diuresis
   limited by BP, switched to lasix gtt with improved hemodynamics.
   Patient continues to do well on vent on MMV with minimal support.
   - scopolamine patch for secretions
   - Will continue ceftaz, today day [**5-14**]
   - cont rate control and reduce afterload with metoprolol/captopril
   - diuresis
lasix gtt with metolazone [**Hospital1 7**] today, goal (-) 4 liters
   - wean to pressure support and minimize sedation for possible
   extubation
   - Albuterol and ipratropium prn
   .
   #. HAP: Has pseudomonas in sputum, switched from cefepime to
   ceftazidime. Afebrile, no leukocytosis, and decreasing secretions.
   - cont ceftaz as above
   .
   #  Metabolic alkalosis- likely [**2-6**] volume contraction, bicarb trending
   up in setting of diuresis, now 41.
   -  will cont diuresis, KCl supplementation, check chem. 7 this
   afternoon
   -  one time dose of acetazolamide today
   .
   #. Hypernatremia: Likely due to diuresis in the setting of being NPO
   intermittently and minimal free water intake.  Corrected with free
   water boluses.
   - PRN free water boluses to 150 cc q4h
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  Family considering IVC filter.  Will not change warfarin
   in interim.
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12475**] systolic CHF
   - Continue metoprolol, ACEi, diuresis
   .
   #. Fever: No fevers for past 4 days. 1 positive blood cx growing CoNS.
   Likely was transiently bacteremic from femoral line.
   - cont abx as above
   - repeat cx if spikes
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - increased warfarin to 3 mg daily
   - Follow INR
   - diuresis as above
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   .
   #  FEN
 no IVF, [**Hospital1 7**] lytes with diuresis, on tube feeds
   BARRIERS TO EXTUBATION:  Secretions, anxiety/discomfort on decreased
   PEEP, strength
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:  warfarin
   Stress ulcer:   ranitidine
   VAP:  ceftaz
   Comments:
   Communication:  Comments:
   Code status:   full -> ? re-intubation vs. Terminal extubation
   Disposition:

2114-01-11 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2114-1-10**]:
   - continued diuresis with lasix drip
   - received 40 IV and 40 PO potassium for K 3.0 and ectopy on tele
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2114-1-8**] 08:50 AM
   Levofloxacin - [**2114-1-8**] 09:56 AM
   Cefazolin - [**2114-1-10**] 07:39 AM
   Ceftazidime - [**2114-1-11**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-10**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-11**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 85 (78 - 111) bpm
   BP: 104/54(70) {93/51(67) - 123/71(85)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  2,010 mL
                                                                    747 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    346 mL
   IVF:
                                                                    396 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  6,150 mL
                                                                  1,600 mL
   Urine:
                                                                  6,150 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,140 mL
                                                                   -853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (342 - 396) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 129
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.54/49/99.[**Numeric Identifier 508**]/43/17
   Ve: 5.4 L/min
   PaO2 / FiO2: 333
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, locked in
   Labs / Radiology
   283 K/uL
   13.7 g/dL
   132 mg/dL
   0.6 mg/dL
   43 mEq/L
   3.0 mEq/L
   25 mg/dL
   87 mEq/L
   137 mEq/L
   41.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2114-1-9**]  03:49 AM
                             [**2114-1-9**]  04:02 AM
                             [**2114-1-9**]  11:45 AM
                             [**2114-1-9**]  05:08 PM
                             [**2114-1-9**]  05:14 PM
                             [**2114-1-10**]  04:22 AM
                             [**2114-1-10**]  05:05 AM
                             [**2114-1-10**]  04:02 PM
                             [**2114-1-11**]  03:50 AM
                             [**2114-1-11**]  04:19 AM
   WBC
   7.0
   7.8
   8.2
   Hct
   39.1
   37.6
   41.4
   Plt
   238
   247
   283
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   41
   42
   49
   43
   Glucose
   138
   153
   136
   140
   132
   Other labs: PT / PTT / INR:17.4/25.3/1.6, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:50.0 %, Band:0.0 %, Lymph:35.0 %, Mono:5.0 %,
   Eos:8.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:10.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, [**Year (4 digits) 12475**] cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Patient may have
   had pulmonary infection leading to respiratory failure, but also likely
   contributing is poor forward flow due to volume overload.  We are
   continuing to diurese to optimize for possible extubation, possibly
   [**2114-1-12**]. Patient was 4L negative yesterday!  We will continue to treat
   for HCAP/VAP pneumonia.  Patient also had apneic episodes on PSV and
   required AC, likely [**2-6**] oversedation; mental status has improved off
   sedation.  Diuresis limited by BP, switched to lasix gtt with improved
   hemodynamics.  Patient continues to do well on vent on MMV with minimal
   support.
   - scopolamine patch for secretions
   - Will continue ceftaz, today day [**6-14**]
   - diuresis
lasix gtt with metolazone [**Hospital1 7**] today, goal (-) 4 liters
   - cont rate control and reduce afterload with metoprolol/captopril
   - weaned to pressure support [**10-14**] and we are minimizing sedation for
   possible extubation
   - Attempt to minimize Alkalemia with KCL PRN given progressive
   alkalemia with both low chloride and diuresis
   - Albuterol and ipratropium prn
   .
   #. HAP: Has pseudomonas in sputum, switched from cefepime to
   ceftazidime. Afebrile, no leukocytosis, and decreasing secretions.
   - cont ceftaz as above
   .
   #  Metabolic alkalosis- likely [**2-6**] diuresis, bicarb trending up in
   setting of diuresis, now 43.
   -  will cont diuresis, KCl supplementation, check chem. 7 TID with
   aggressive KCL
   -  one time dose of acetazolamide today
   .
   #. Hypernatremia: Corrected with free water boluses.
   - PRN free water boluses to 150 cc q4h
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  Family considering IVC filter.  Will not change warfarin
   in interim.
   .
   # Tachycardia: likely [**2-6**] multifactorial- fever, anxiety, poor forward
   flow in setting of MR [**First Name (Titles) **] [**Last Name (Titles) 12475**] systolic CHF
   - Continue metoprolol, ACEi, diuresis
   .
   #. Fever: No fevers for past 5 days. 1 positive blood cx growing CoNS.
   Likely was transiently bacteremic from femoral line.
   - cont abx as above
   - repeat cx if spikes
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - increased warfarin to 3 mg daily
   - Follow INR
   - diuresis as above
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   .
   #  FEN
 no IVF, [**Hospital1 7**] lytes with diuresis, on tube feeds
   BARRIERS TO EXTUBATION:  Secretions, anxiety/discomfort on decreased
   PEEP, strength, fluid overload
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-11**] 03:52 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:  warfarin
   Stress ulcer:   ranitidine
   VAP:  ceftaz
   Comments:
   Communication:  Comments:
   Code status:   full -> ? re-intubation vs. Terminal extubation
   Disposition:

2114-01-12 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - continued diuresis with lasix gtt and metolazone,
   (-) 2.3 liters
   - repleted lytes
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2114-1-10**] 07:39 AM
   Ceftazidime - [**2114-1-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2114-1-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-12**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 92 (81 - 99) bpm
   BP: 91/79(85) {85/46(61) - 115/81(91)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  2,507 mL
                                                                    670 mL
   PO:
             TF:
                                                                  1,218 mL
                                                                    373 mL
   IVF:
                                                                    550 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  4,760 mL
                                                                  1,780 mL
   Urine:
                                                                  4,760 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,253 mL
                                                                 -1,110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 356 (356 - 450) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 135
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///42/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, locked in
   Labs / Radiology
   313 K/uL
   14.0 g/dL
   143 mg/dL
   0.7 mg/dL
   42 mEq/L
   3.0 mEq/L
   35 mg/dL
   90 mEq/L
   140 mEq/L
   43.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2114-1-9**]  05:08 PM
                             [**2114-1-9**]  05:14 PM
                             [**2114-1-10**]  04:22 AM
                             [**2114-1-10**]  05:05 AM
                             [**2114-1-10**]  04:02 PM
                             [**2114-1-11**]  03:50 AM
                             [**2114-1-11**]  04:19 AM
                             [**2114-1-11**]  02:30 PM
                             [**2114-1-11**]  07:15 PM
                             [**2114-1-12**]  02:42 AM
   WBC
   7.8
   8.2
   8.8
   Hct
   37.6
   41.4
   43.5
   Plt
   247
   283
   313
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   42
   49
   43
   Glucose
   136
   140
   132
   134
   137
   143
   Other labs:
   Differential-Neuts:64.0 %, Band:0.0 %, Lymph:26.5 %, Mono:5.1 %,
   Eos:4.1 %,
   Ca++:10.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Patient may have
   had pulmonary infection leading to respiratory failure, but also likely
   contributing is poor forward flow due to volume overload.  We are
   continuing to diurese to optimize for possible extubation, possibly
   [**2114-1-12**]. Patient is now even for LOS.  We will continue to treat for
   HCAP/VAP pneumonia.  Patient also had apneic episodes on PSV and
   required AC, likely [**2-6**] oversedation; mental status has improved off
   sedation.  Patient continues to do well on vent on MMV with minimal
   support.
   - scopolamine patch for secretions
   - Will continue ceftaz, today day [**7-14**]
   - diuresis
lasix gtt with metolazone [**Hospital1 7**]
   - cont rate control and reduce afterload with metoprolol/captopril
   - wean to pressure support [**5-9**] and off sedation for possible extubation
   today
   - Albuterol and ipratropium prn
   .
   #. HAP: Has pseudomonas in sputum, on ceftazidime. Afebrile, no
   leukocytosis, and decreasing secretions.
   - cont ceftaz as above
   .
   #  Metabolic alkalosis- likely [**2-6**] diuresis, bicarb trending up in
   setting of diuresis, now 43.
   -  will cont diuresis, KCl supplementation, check chem. 7 TID with
   aggressive KCL
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  IVC filter not indicated or wanted by family.  Will not
   change warfarin in interim.
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - increased warfarin to 3 mg daily (3^rd day today)
   - Follow INR
   - diuresis as above
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   .
   #  FEN
 no IVF, [**Hospital1 7**] lytes with diuresis, on tube feeds
   BARRIERS TO EXTUBATION:  Secretions, anxiety/discomfort on decreased
   PEEP, strength, fluid overload
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-11**] 03:52 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:  warfarin
   Stress ulcer:   ranitidine
   VAP:  ceftaz
   Comments:
   Communication:  Comments:
   Code status:   full -> ? re-intubation vs. Terminal extubation
   Disposition: ICU

2114-01-13 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   none
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2114-1-10**] 07:39 AM
   Ceftazidime - [**2114-1-12**] 04:03 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-12**] 08:21 AM
   Fentanyl - [**2114-1-12**] 06:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-13**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 98 (84 - 102) bpm
   BP: 98/60(73) {95/53(68) - 121/89(96)} mmHg
   RR: 19 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  2,492 mL
                                                                    564 mL
   PO:
             TF:
                                                                  1,365 mL
                                                                    334 mL
   IVF:
                                                                    546 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,000 mL
   Urine:
                                                                  3,700 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,208 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 391 (359 - 545) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 111
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.50/63/105/43/21
   NIF: -5 cmH2O
   Ve: 5.9 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Well nourished, NAD
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, locked in
   Labs / Radiology
   332 K/uL
   14.4 g/dL
   139 mg/dL
   0.8 mg/dL
   43 mEq/L
   3.0 mEq/L
   42 mg/dL
   89 mEq/L
   142 mEq/L
   44.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2114-1-10**]  05:05 AM
                             [**2114-1-10**]  04:02 PM
                             [**2114-1-11**]  03:50 AM
                             [**2114-1-11**]  04:19 AM
                             [**2114-1-11**]  02:30 PM
                             [**2114-1-11**]  07:15 PM
                             [**2114-1-12**]  02:42 AM
                             [**2114-1-12**]  02:32 PM
                             [**2114-1-13**]  02:27 AM
                             [**2114-1-13**]  02:38 AM
   WBC
   8.2
   8.8
   8.5
   Hct
   41.4
   43.5
   44.4
   Plt
   [**Telephone/Fax (3) 12568**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   49
   43
   51
   Glucose
   140
   132
   134
   137
   143
   145
   139
   Other labs: INR 1.3
   Ca++:10.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Patient may have
   had pulmonary infection leading to respiratory failure, but more
   relevant is likely worsening CHF and poor forward flow.  We are
   continuing to diurese to optimize for extubation on [**2114-1-15**]. Patient is
   now -650cc for LOS, and BUN/Cr rising.  We will continue to treat for
   HCAP/VAP pneumonia.  Patient on MMV with minimal support but has low VT
   when weaned down to PSV to [**5-9**]. NIF -5 yesterday so central muscle
   weakness also a significant problem.
   - repeat NIF
   - scopolamine patch for secretions
   - Will continue ceftaz, today day [**8-14**]
   - diuresis
lasix gtt with metolazone [**Hospital1 7**] for goal -500cc today and
   reassess after PM lytes
   - consult IP for possible bedside tap today
   - Albuterol and ipratropium prn
   - extubate tomorrow vs. Monday and do not re-intubate
   .
   #. HAP: Has pseudomonas in sputum, on ceftazidime. Afebrile, no
   leukocytosis, and decreasing secretions.
   - cont ceftaz as above
   .
   #  Metabolic alkalosis- likely [**2-6**] diuresis, bicarb trending up in
   setting of diuresis. Patient will have greater chance of weaning off
   the vent in setting of alkalosis (will need smaller tidal volumes to
   ventilate)
   - KCl supplementation prn
   - D/C diamox
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  IVC filter not indicated or wanted by family.  Will not
   change warfarin in interim.
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.
   - increased warfarin to 5 mg daily
   - Follow INR and dose appropriately
   - diuresis as above
   - cont rate control and reduce afterload with metoprolol/captopril
   .
   #. CAD: Extensive, but stable.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   BARRIERS TO EXTUBATION:  strength (low NIF), fluid overload
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-11**] 03:52 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:  warfarin
   Stress ulcer:   ranitidine
   VAP:  ceftaz
   Comments:
   Communication:  Comments:
   Code status:   DNR/DNI (do not reintubate)
   Disposition: ICU

2114-01-13 10:36:00 Physician Attending Progress Note
Chief Complaint: Respirartory failure, CHF, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues to be diuresed (negative 600 cc length of stay);
   lasix drip.
   Vented with PSV. RSBI 111 this AM.
   24 Hour Events:
   History obtained from Patient
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2114-1-12**] 04:03 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2114-1-12**] 06:21 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-13**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 93 (85 - 101) bpm
   BP: 89/56(67) {89/54(67) - 121/89(96)} mmHg
   RR: 20 (13 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  2,492 mL
                                                                    795 mL
   PO:
             TF:
                                                                  1,365 mL
                                                                    509 mL
   IVF:
                                                                    546 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,240 mL
   Urine:
                                                                  3,700 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,208 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 369 (368 - 545) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 111
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.50/63/105/43/21
   NIF: -5 cmH2O
   Ve: 6.1 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Unable to assess, Movement: No
   spontaneous movement, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   14.4 g/dL
   332 K/uL
   139 mg/dL
   0.8 mg/dL
   43 mEq/L
   3.0 mEq/L
   42 mg/dL
   89 mEq/L
   142 mEq/L
   44.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2114-1-10**]  05:05 AM
                             [**2114-1-10**]  04:02 PM
                             [**2114-1-11**]  03:50 AM
                             [**2114-1-11**]  04:19 AM
                             [**2114-1-11**]  02:30 PM
                             [**2114-1-11**]  07:15 PM
                             [**2114-1-12**]  02:42 AM
                             [**2114-1-12**]  02:32 PM
                             [**2114-1-13**]  02:27 AM
                             [**2114-1-13**]  02:38 AM
   WBC
   8.2
   8.8
   8.5
   Hct
   41.4
   43.5
   44.4
   Plt
   [**Telephone/Fax (3) 12568**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   49
   43
   51
   Glucose
   140
   132
   134
   137
   143
   145
   139
   Other labs: PT / PTT / INR:15.2/23.0/1.3, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:64.0 %, Band:0.0 %, Lymph:26.5 %, Mono:5.1 %,
   Eos:4.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: bilateral effusions, large heart. Lung fields clear.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   CHF - CHRONIC, SYSTOLIC
   PNEUMONIA
   ALKALOSIS
   ====================
   Patient with high RSBI. Oxygenation good on FIO2 0.3, VE 5-6L/min. The
   patient is acting as if muscle weakness is his major impediment to
   getting off the ventilator. We are trying to reduce the mechanical load
   of the system. Probably have reduced intravascular volume as evidenced
   by clear lung fields, low oxygen requirement, and high BUN/creat ratio.
   Pleural effusions may be contributing to mechanical problems. [**Name (NI) 133**] ask
   IP to assess for thoracentesis.
   Metabolic alkalsosis from diuresis and low KCl. Repleting electrolytes.
   Would consider stopping diamox. Goal for even to 0.5 L negative fluid
   balance.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-13**] 01:56 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2114-01-14 07:33:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
   - had diuresed another 800cc at 6pm so halved lasix gtt (15 to 7)
   - on PSV 5/5 all day, doing better with VT 200s, MV 700s
   - repleted KCl, D/Ced Diamox
   - bedside U/S showed no tapable pleural effusion, will consider
   CT-guided tap
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2114-1-14**] 12:17 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-1-13**] 02:00 PM
   Fentanyl - [**2114-1-13**] 04:57 PM
   Other medications:
   Changes to medical and family history:
   c/o left-sided chest pain, ECG obtained, pain nearly resolved 10
   minutes later
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2114-1-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 95 (86 - 96) bpm
   BP: 125/64(83) {83/48(59) - 129/69(88)} mmHg
   RR: 26 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  1,937 mL
                                                                    545 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                    373 mL
   IVF:
                                                                    451 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                  1,000 mL
   Urine:
                                                                  2,520 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -583 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 310 (196 - 438) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   [**Year (2 digits) 1398**]: 114
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///44/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Paralyzed, Tone: Not assessed, locked-in
   Labs / Radiology
   330 K/uL
   13.7 g/dL
   150 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.0 mEq/L
   54 mg/dL
   94 mEq/L
   147 mEq/L
   43.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2114-1-11**]  03:50 AM
                             [**2114-1-11**]  04:19 AM
                             [**2114-1-11**]  02:30 PM
                             [**2114-1-11**]  07:15 PM
                             [**2114-1-12**]  02:42 AM
                             [**2114-1-12**]  02:32 PM
                             [**2114-1-13**]  02:27 AM
                             [**2114-1-13**]  02:38 AM
                             [**2114-1-13**]  02:34 PM
                             [**2114-1-14**]  04:45 AM
   WBC
   8.2
   8.8
   8.5
   8.1
   Hct
   41.4
   43.5
   44.4
   43.5
   Plt
   [**Telephone/Fax (3) 12589**]30
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.8
   0.9
   0.9
   TCO2
   43
   51
   Glucose
   132
   134
   137
   143
   145
   139
   150
   Other labs: PT / PTT / INR:16.1/27.1/1.4, CK / CKMB /
   Troponin-T:132/2/0.04, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:64.0 %, Band:0.0 %, Lymph:26.5 %, Mono:5.1 %,
   Eos:4.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   ECG: LAD, LBBB, slight ST-T in aVL, I
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Possible pulmonary
   infection leading to respiratory failure, but more relevant is likely
   worsening CHF and poor forward flow.  Continuing diuresis to optimize
   for extubation on [**2114-1-15**]. Patient is now -1300 cc for LOS, and BUN/Cr
   rising.  We will continue to treat for HCAP/VAP pneumonia.  Patient on
   MMV with minimal support but has low VT when weaned down to PSV to [**5-9**].
   NIF -5 2 days ago so central muscle weakness also a significant
   problem.  [**Name (NI) 1398**] 114.
   - repeat NIF
   - scopolamine patch for secretions
   - Will continue ceftaz, today day [**9-14**]
   - diuresis
lasix gtt with metolazone [**Hospital1 7**] for goal -1000 cc today and
   reassess after PM lytes
   - consult IP for possible bedside tap
   - Albuterol and ipratropium prn
   - likely extubate Monday and do not re-intubate
   .
   #. HAP: Has pseudomonas in sputum, on ceftazidime. Afebrile, no
   leukocytosis, and decreasing secretions.
   - cont ceftaz as above
   .
   #  Metabolic alkalosis- likely [**2-6**] diuresis, bicarb trending up in
   setting of diuresis. Patient will have greater chance of weaning off
   the vent in setting of alkalosis (will need smaller tidal volumes to
   ventilate)
   - KCl supplementation prn
   - D/C diamox
   - will monitor Na
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  IVC filter not indicated or wanted by family.  Will not
   change warfarin in interim.
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.  INR
   subtherapeutic for past 3 days.
   - increased warfarin to 7.5 mg daily
   - Follow INR and dose appropriately
   - diuresis as above
   - cont rate control and reduce afterload with metoprolol/captopril
   .
   #. CAD: Extensive, but stable.   Episode of chest pain this morning
   resolved with morphine.  Low suspicion for mycocardial ischemia.  Will
   repeat ECG, as pt  is now pain free.
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   BARRIERS TO EXTUBATION:  strength (low NIF), fluid overload
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-13**] 09:50 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:   warfarin
   Stress ulcer:   ranitidine
   VAP:  ceftaz
   Comments:
   Communication:  Comments:
   Code status:   DNR/DNI, will clarify no re-intubation at time of
   extubation
   Disposition:  [**Hospital Unit Name 1**]

2114-01-14 12:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pleural effusions
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On PSV 5/5 throughout the day yesterday.
   IP assessed effusions with ultrasound; there was insignificant amount
   and not sufficient for tap. Fluid balance negative 500 cc yesterday.
   Na 147 this AM.
   Patient complained of chest discomfort this AM. Resolved with morphine.
   24 Hour Events:
   History obtained from Patient
   Patient unable to provide history: Intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2114-1-14**] 12:17 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-1-13**] 02:00 PM
   Fentanyl - [**2114-1-13**] 04:57 PM
   Morphine Sulfate - [**2114-1-14**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-14**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 89 (86 - 101) bpm
   BP: 97/58(70) {94/53(67) - 129/69(88)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  1,937 mL
                                                                    607 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                    392 mL
   IVF:
                                                                    451 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                  1,560 mL
   Urine:
                                                                  2,520 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -583 mL
                                                                   -953 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 322 (196 - 438) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 114
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///44/
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.7 g/dL
   330 K/uL
   150 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.0 mEq/L
   54 mg/dL
   94 mEq/L
   147 mEq/L
   43.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2114-1-11**]  04:19 AM
                             [**2114-1-11**]  02:30 PM
                             [**2114-1-11**]  07:15 PM
                             [**2114-1-12**]  02:42 AM
                             [**2114-1-12**]  02:32 PM
                             [**2114-1-13**]  02:27 AM
                             [**2114-1-13**]  02:38 AM
                             [**2114-1-13**]  02:34 PM
                             [**2114-1-14**]  04:45 AM
                             [**2114-1-14**]  08:00 AM
   WBC
   8.8
   8.5
   8.1
   Hct
   43.5
   44.4
   43.5
   Plt
   [**Telephone/Fax (3) 12592**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.8
   0.9
   0.9
   TropT
   0.09
   TCO2
   43
   51
   Glucose
   134
   137
   143
   145
   139
   150
   Other labs: PT / PTT / INR:16.1/27.1/1.4, CK / CKMB /
   Troponin-T:40/2/0.09, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:64.0 %, Band:0.0 %, Lymph:26.5 %, Mono:5.1 %,
   Eos:4.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: effusions diminished.
   ECG: Changed morphology of QRS on limb leads.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   PLEURAL EFFUSIONS
   HYPERNATREMIA
   ============
   Patient tolerating lower degree of ventilator support. CXR improved
   with respect to pleural effusions. Will continue diuresis in effort to
   increase lung compliance, further reduce size of effusions, and reduce
   work of breathing and facilitate extubation. On rounds this AM, patient
   placed on CPAP 5 with VT 350 and respiratory rate 25-30. Will continue
   to observe him on these settings. With additional diuresis, may be
   ready for extubation tomorrow.
   Will replete free water; diuresis likely explanation for hypernatremia.
   ICU Care
   Nutrition: Tube feedings.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2114-01-15 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued diuresis, repleted lytes, plan to extubate tomorrow
   - episode of chest pain this A.M., no improvement with nitro paste,
   improved with morphine -> trop 0.09 -> .08
   - tolerated 0/5 all day, now back on [**5-9**]
   - mild hypernatremia, repleting with free water boluses, total 1.5 L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2114-1-14**] 12:17 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2114-1-14**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-15**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.9
   HR: 98 (85 - 101) bpm
   BP: 116/62(80) {95/57(70) - 130/68(86)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  2,099 mL
                                                                    846 mL
   PO:
             TF:
                                                                    801 mL
   IVF:
                                                                  1,268 mL
                                                                    646 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                  1,000 mL
   Urine:
                                                                  2,640 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -541 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 292 (243 - 322) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   [**Year (2 digits) 1398**]: 97
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///39/
   Ve: 6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   12.7 g/dL
   162 mg/dL
   0.8 mg/dL
   39 mEq/L
   3.7 mEq/L
   49 mg/dL
   100 mEq/L
   147 mEq/L
   40.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2114-1-12**]  02:42 AM
                             [**2114-1-12**]  02:32 PM
                             [**2114-1-13**]  02:27 AM
                             [**2114-1-13**]  02:38 AM
                             [**2114-1-13**]  02:34 PM
                             [**2114-1-14**]  04:45 AM
                             [**2114-1-14**]  08:00 AM
                             [**2114-1-14**]  02:53 PM
                             [**2114-1-14**]  07:40 PM
                             [**2114-1-15**]  06:28 AM
   WBC
   8.8
   8.5
   8.1
   8.2
   Hct
   43.5
   44.4
   43.5
   40.9
   Plt
   [**Telephone/Fax (3) 12596**]08
   Cr
   0.7
   0.7
   0.8
   0.9
   0.9
   0.9
   0.8
   TropT
   0.09
   0.08
   TCO2
   51
   Glucose
   143
   145
   139
   150
   168
   162
   Other labs: PT / PTT / INR:16.1/27.1/1.4, CK / CKMB /
   Troponin-T:35/2/0.08, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:64.0 %, Band:0.0 %, Lymph:26.5 %, Mono:5.1 %,
   Eos:4.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL     ABOVE LYTES ARE FROM
   7:40 PM
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Multi-factorial.  Possible pulmonary
   infection leading to respiratory failure, but more relevant is likely
   worsening CHF and poor forward flow.  Continuing diuresis to optimize
   for extubation on [**2114-1-15**]. Patient is now -1300 cc for LOS, and BUN/Cr
   rising.  We will continue to treat for HCAP/VAP pneumonia.  Patient on
   MMV with minimal support but has low VT when weaned down to PSV to [**5-9**].
   NIF -5 2 days ago so central muscle weakness also a significant
   problem.  [**Name (NI) 1398**] 114.
   - Planned extubation today
   - scopolamine patch for secretions
   - Will continue ceftaz, today day [**10-14**]
   - changed lasix to 40mg [**Hospital1 7**] to attempt to keep him on a dose that will
   make him roughly even everyday.
   - nothing to tap on U/S
   - Albuterol and ipratropium prn
   - Do not re-intubate
   .
   #Hypernatremia:  Likley [**2-6**] volume shifts in the setting of massive
   diuresis.
   -Resolved with increased free water flushes with tube feeds
   .
   #. HAP: Has pseudomonas in sputum, on ceftazidime. Afebrile, no
   leukocytosis, and decreasing secretions.
   - cont ceftaz as above
   .
   #  Metabolic alkalosis- likely [**2-6**] diuresis, bicarb trending up in
   setting of diuresis. Patient will have greater chance of weaning off
   the vent in setting of acidosis (will need smaller tidal volumes to
   ventilate)
   - KCl supplementation prn
   - D/C diamox
   - will monitor Na
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  IVC filter not indicated or wanted by family.  Will not
   change warfarin in interim.
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.  INR
   subtherapeutic for past 3 days.
   - increased warfarin to 7.5 mg daily
   - Follow INR and dose appropriately
   - diuresis as above
   - cont rate control and reduce afterload with metoprolol/captopril
   .
   #. CAD: Extensive, but stable.   Episode of chest pain this morning
   resolved with morphine.  Low suspicion for mycocardial ischemia.  Will
   repeat ECG, as pt  is now pain free.  Cardiac Enzymes negative
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   BARRIERS TO EXTUBATION:  strength (low NIF), fluid overload
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:  Coumadin
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:Extubate today

2114-01-16 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Extubated without issue.
   - weaned oxygen down to 2L NC
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2114-1-15**] 01:21 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2114-1-15**] 04:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2114-1-15**] 08:00 AM
   Coumadin (Warfarin) - [**2114-1-15**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2114-1-15**] 10:00 PM
   Fentanyl - [**2114-1-16**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-16**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 95 (87 - 105) bpm
   BP: 119/62(81) {95/57(70) - 129/70(89)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  1,945 mL
                                                                    573 mL
   PO:
             TF:
                                                                    400 mL
                                                                    369 mL
   IVF:
                                                                    915 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                    320 mL
   Urine:
                                                                  2,215 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 348 (348 - 530) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   13.2 g/dL
   136 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.7 mEq/L
   41 mg/dL
   102 mEq/L
   147 mEq/L
   41.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2114-1-12**]  02:32 PM
                             [**2114-1-13**]  02:27 AM
                             [**2114-1-13**]  02:38 AM
                             [**2114-1-13**]  02:34 PM
                             [**2114-1-14**]  04:45 AM
                             [**2114-1-14**]  08:00 AM
                             [**2114-1-14**]  02:53 PM
                             [**2114-1-14**]  07:40 PM
                             [**2114-1-15**]  06:28 AM
                             [**2114-1-16**]  03:10 AM
   WBC
   8.5
   8.1
   8.2
   8.0
   Hct
   44.4
   43.5
   40.9
   41.6
   Plt
   332
   330
   308
   279
   Cr
   0.7
   0.8
   0.9
   0.9
   0.9
   0.8
   0.7
   0.6
   TropT
   0.09
   0.08
   TCO2
   51
   Glucose
   145
   139
   150
   168
   162
   112
   136
   Other labs: PT / PTT / INR:16.3/25.0/1.4, CK / CKMB /
   Troponin-T:35/2/0.08, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:64.0 %, Band:0.0 %, Lymph:26.5 %, Mono:5.1 %,
   Eos:4.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   69M with pontine CVA, CAD, dilated cardiomyopathy LVEF 20%, and
   recurrent aspiration pneumonia presenting with progressively worsening
   dyspnea over 2.5 weeks and hypoxic respiratory failure secondary to
   HCAP vs aspiration PNA vs. CHF.
   .
   #.  Hypoxic Respiratory Failure:  Now extubated on shovel mask. Had
   episode of air hunger likely [**2-6**] anxiety.
   - scopolamine patch for secretions
   - D/C ceftaz, today day [**10-14**]
   - increase lasix to 100 qAM, 80mg qPM
   - TBB goal even today
   - Albuterol and ipratropium prn
   - Do not re-intubate
   .
   #Hypernatremia:  Likley [**2-6**] volume shifts in the setting of massive
   diuresis.
   - increase free water flushes with tube feeds (100 q4h)
   .
   #. HAP: Had pseudomonas in sputum, on ceftazidime. Completed course of
   ceftaz.
   .
   #  Metabolic alkalosis- likely [**2-6**] diuresis, improving since extubated
   and less aggressive diuresis
   - KCl supplementation prn
   .
   # Right Greater Saphenous vein thrombus: Does not extend into common
   femoral vein.  IVC filter not indicated or wanted by family.  Will not
   change warfarin in interim.
   .
   #  Cardiomyopathy: Unclear etiology, likely ischemic and related to
   dysnychromy. TTE shows low EF and worsened MR from prior.  CHF is
   likely contributing to respiratory failure as above.  INR
   subtherapeutic for past 3 days.
   - cont warfarin to 7.5 mg daily
   - Follow INR and dose appropriately
   - diuresis as above
   - cont rate control and reduce afterload with metoprolol/captopril
   .
   #. CAD: Extensive, but stable.   Episode of chest pain this morning
   resolved with morphine.  Low suspicion for mycocardial ischemia.  Will
   repeat ECG, as pt  is now pain free.  Cardiac Enzymes negative
   - will continue ASA, home statin
   .
   #.  Depression/Anxiety- currently on fentanyl and midazolam
   - continue lexapro
   .  .
   #.  h/o pontine infarct: At baseline, patient able to nod yes and no
   and shake head in response to questions.
   - continue coumadin
   - ASA 325
   ICU Care
   Nutrition: TF at goal
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
 D/C A-line
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT:  Coumadin
   Stress ulcer: Ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: [**Hospital1 238**] today

2114-01-16 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Alert. Some breathlessness overnight treated with fentanyl
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2114-1-15**] 01:21 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2114-1-15**] 04:00 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2114-1-15**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2114-1-15**] 10:00 PM
   Fentanyl - [**2114-1-16**] 06:06 AM
   Ranitidine (Prophylaxis) - [**2114-1-16**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, Paralyzed
   Integumentary (skin): No(t) Jaundice, No(t) Rash, Pressure injury
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-1-16**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.7
C (96.2
   HR: 100 (93 - 108) bpm
   BP: 123/66(84) {95/57(70) - 123/70(86)} mmHg
   RR: 26 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.9 kg (admission): 87.5 kg
             Total In:
                                                                  1,945 mL
                                                                    835 mL
   PO:
             TF:
                                                                    400 mL
                                                                    513 mL
   IVF:
                                                                    915 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                    660 mL
   Urine:
                                                                  2,215 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 348 (348 - 348) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///36/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic), [**2-10**]
   holosyst
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful - eyes only, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.2 g/dL
   279 K/uL
   136 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.7 mEq/L
   41 mg/dL
   102 mEq/L
   147 mEq/L
   41.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2114-1-12**]  02:32 PM
                             [**2114-1-13**]  02:27 AM
                             [**2114-1-13**]  02:38 AM
                             [**2114-1-13**]  02:34 PM
                             [**2114-1-14**]  04:45 AM
                             [**2114-1-14**]  08:00 AM
                             [**2114-1-14**]  02:53 PM
                             [**2114-1-14**]  07:40 PM
                             [**2114-1-15**]  06:28 AM
                             [**2114-1-16**]  03:10 AM
   WBC
   8.5
   8.1
   8.2
   8.0
   Hct
   44.4
   43.5
   40.9
   41.6
   Plt
   332
   330
   308
   279
   Cr
   0.7
   0.8
   0.9
   0.9
   0.9
   0.8
   0.7
   0.6
   TropT
   0.09
   0.08
   TCO2
   51
   Glucose
   145
   139
   150
   168
   162
   112
   136
   Other labs: PT / PTT / INR:16.3/25.0/1.4, CK / CKMB /
   Troponin-T:35/2/0.08, ALT / AST:59/44, Alk Phos / T Bili:57/0.5,
   Differential-Neuts:64.0 %, Band:0.0 %, Lymph:26.5 %, Mono:5.1 %,
   Eos:4.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:223 IU/L,
   Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 CARDIOMYOPATHY, OTHER
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   RESPIRATORY FAILURE
   ANXIETY
   CHF - acute on chronic systolic
   Successfully weaned from ventilator.  He was somewhat SOB overnight -
   got fentanyl with some relief. Does not wish for reintubation. Will
   incr lasix sl based on an decrease in his BUN and creat overnight.  Na
   up so we are incr free water slightly.
   Plan is to return to his NH.  Will discuss with him and his wife if he
   would wish to be hospitalized again - he is very aware of his poor
   prognosis with an EF of 20% and severe MR.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-1-16**] 04:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-1-1**] 11:08 PM
   PICC Line - [**2114-1-2**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to other facility
   Total time spent: 35 minutes
   Patient is critically ill